US04283544
8.5 g (0.1 mol) of 2-methyloxazoline and 14.9 g (0.1 mol) of prenyl bromide were stirred in 50 ml of n-hexane at 40° C. for 1 hour, whereupon a suspension formed, which, after adding 0.11 mol of a sodium ethylate solution in ethanol, was again stirred at 40° C. for 1 hour. The solution was filtered, the filtrate was concentrated on a rotary evaporator and the residue was distilled using an oil pump. 12.3 g (0.062 mol, 62%) of 2-ethoxy-2-methyl-3-(3-methyl-2-butenyl)-oxazolidine were isolated at a boiling point 67° C./0.1 mm Hg.

reactant | 2-methyloxazoline | 0.1 mol, 8.5 g | CC=1OCCN1 | C4H7NO
reactant | prenyl bromide | 0.1 mol, 14.9 g | C(C=C(C)C)Br | C5H9Br
reactant | sodium ethylate solution | 0.11 mol | CC[O-].[Na+]
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-2-methyl-3-(3-methyl-2-butenyl)-oxazolidine | 0.062 mol, 12.3 g, 62% | C(C)OC1(OCCN1CC=C(C)C)C | C11H21NO2
